US08445510B2
2,6-Dichloro-3-fluorobenzaldehyde
To a solution of (2,6-Dichloro-3-fluorophenyl)methanol (100 g, 0.51 mol) in dichloromethane (450 mL) was added a solution of sodium bromide (54 g, 0.53 mol, in 90 mL water). The rapidly stirred biphasic mixture was cooled to −7° C. and TEMPO (1.54 g, 0.0100 mol) was added. A solution of 0.81M sodium hypochlorite (823 mL, 0.66 mol) saturated with sodium bicarbonate (75 g) was added dropwise over a period of 1 h while maintaining the temperature below −2° C. After the addition the reaction mixture was stirred for 30 min. The two layers separated and the DCM layer was washed with aq. solution of sodium thiosulfate. The DCM layer was dried (Na2SO4) and concentrated on rotary evaporator without using vacuum (aldehyde is volatile) to give the title compound as a solid, mp. 63-65° C. 1H NMR (CDCl3, 300 MHz): δ=7.23 (dd, 1H, J=7.8, 9.0 Hz), 7.35 (dd, 1H, J=4.5, 9.3 Hz), 10.2 (s, 1H).

reactant | (2,6-Dichloro-3-fluorophenyl)methanol | 0.51 mol, 100 g | ClC1=C(C(=CC=C1F)Cl)CO | C7H5Cl2FO
reactant | sodium bromide | 0.53 mol, 90 mL, 54 g | [Br-].[Na+]
reactant | TEMPO | 0.0100 mol, 1.54 g | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | sodium hypochlorite | 0.66 mol, 0.81M, 823 mL | Cl[O-].[Na+]
reactant | sodium bicarbonate | 75 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
product | 2,6-Dichloro-3-fluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1F)Cl | C7H3Cl2FO
